US08217179B2
To a three-necked flask, pentan-1-ol (150 mL) was added. And the sodium (3.0 g, 0.13 mol) was added partially. The reaction mixture was heated to reflux for 30 minutes at 100° C. When the sodium reacted completely, the mixture was cooled to 60° C. Then 3-chloro-2-hydrazinylpyridine (12.75 g, 98%, 0.09 mol) were added and reacted for 30 minutes. The dimethyl maleate (12.50 g, 0.11 mol) was added dropwise. The reaction mixture was heated to reflux for 10 minutes. After cooled to 65° C., the reaction mixture was neutralized with glacial acetic acid (13.04 g, 0.23 mol) and diluted with water (300 mL). After cooled to room temperature, solid is separated out to be filtered and, washed with 40% aqueous solution of ethanol (3×50 mL) and dried to give pentyl 2-(3-chloro-2-pyridinyl)-5-oxopyrazolidine-3-carboxylate (12.00 g) as a orange solid in 42% yield. HPLC area normalization method content is 95% (Analytical condition: chromatographic column: ZORBAX Eclipse XDB-C8 4.6×150 mm 5 μm, mobile phase:the ratio of acetonitrile to water is 70:30).

reactant | pentan-1-ol | 150 mL | C(CCCC)O | C5H12O
reactant | sodium | 0.13 mol, 3.0 g | [Na] | Na
reactant | 3-chloro-2-hydrazinylpyridine | 0.09 mol, 12.75 g | ClC=1C(=NC=CC1)NN | C5H6ClN3
reactant | dimethyl maleate | 0.11 mol, 12.50 g | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
reactant | acetic acid | 0.23 mol, 13.04 g | C(C)(=O)O | C2H4O2
solvent | water | 300 mL | O | H2O
product | pentyl 2-(3-chloro-2-pyridinyl)-5-oxopyrazolidine-3-carboxylate | 12.00 g, 42% yield | ClC=1C(=NC=CC1)N1NC(CC1C(=O)OCCCCC)=O | C14H18ClN3O3
